US09260425B2
N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate 45.6 mg, 0.120 mmol) was added to a mixture of 4-(tert-butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylic acid (60.0 mg, 0.100 mmol), ammonium chloride 21 mg (0.40 mmol) and N,N-Diisopropylethylamine (0.087 ml, 0.50 mmol) in 2 ml of N,N-dimethylformamide. The mixture was stirred for 18 hours and concentrated. The residue was partitioned between ethyl acetate and 1% of aqueous citric acid. The organic extracts were washed with water, 5% aqueous solution of NaHCO3, brine, dried over MgSO4 and concentrated to give tert-Butyl 4-carbamoyl-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-4-ylcarbamate. Yield 47 mg (78%). ESI MS m/z 599.2 (M+1).

reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.120 mmol, 45.6 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | 4-(tert-butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylic acid | 0.100 mmol, 60.0 mg | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C1=NC(=CC=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2)C(=O)O | C32H37N7O5
reactant | ammonium chloride | 0.40 mmol, 21 mg | [Cl-].[NH4+]
reactant | N,N-Diisopropylethylamine | 0.50 mmol, 0.087 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-carbamoyl-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-4-ylcarbamate | C(N)(=O)C1(CCN(CC1)C1=NC(=CC=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2)NC(OC(C)(C)C)=O | C32H38N8O4
